US04369325
6.3 g (0.0443 moles) of 2,6-dimethylphenyl-cyanamide [m.p.: 120°-122° C.; prepared from 1-(2',6'-dimethylphenyl)-thiourea according to the method of Rathke (Ber. 12, 773 /1879/; Beilstein's Handbuch der organischen Chemie 12 H, 368 /1929/)] are dissolved in 100 ml of dry dimethylformamide, 4.8 g (0.0048 moles) of potassium tert.-butoxide are added, and the mixture is stirred at room temperature for 0.5 hours. Thereafter 8.7 g (0.0443 moles) of N-chloroacetyl-2,6-dimethyl-aniline (m.p.: 145°-146° C.; prepared by acylating 2,6-dimethylaniline with chloroacetyl chloride) are introduced, and the resulting mixture is stirred at 100° C. for 2 hours. The mixture is cooled, poured into water, the separated crystalline product is filtered off, washed with water and dried. This crude product is dissolved in 10% isopropanolic hydrochloric acid, and the salt is precipitated with diethyl ether. 1.7 g (12.5%) of pure 1,3-bis(2',6'-dimethylphenyl)-2-imino-4-oxo-imidazolidine hydrochloride are obtained; m.p.: 219°-221° C.

reactant | 2,6-dimethylphenyl-cyanamide | 0.0443 moles, 6.3 g | CC1=C(C(=CC=C1)C)NC#N | C9H10N2
reactant | 1-(2',6'-dimethylphenyl)-thiourea | CC1=C(C(=CC=C1)C)NC(=S)N | C9H12N2S
reactant | potassium tert.-butoxide | 0.0048 moles, 4.8 g | CC(C)([O-])C.[K+]
reactant | N-chloroacetyl-2,6-dimethyl-aniline | 0.0443 moles, 8.7 g | ClCC(=O)NC1=C(C=CC=C1C)C | C10H12ClNO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1,3-bis(2',6'-dimethylphenyl)-2-imino-4-oxo-imidazolidine hydrochloride | 1.7 g, 12.5% | Cl.CC1=C(C(=CC=C1)C)N1C(N(C(C1)=O)C1=C(C=CC=C1C)C)=N | InChI=1S/C19H21N3O.ClH/c1-12-7-5-8-13(2)17(12)21-11-16(23)22(19(21)20)18-14(3)9-6-10-15(18)4;/h5-10,20H,11H2,1-4H3;1H
